US07371743B2
(b) 3-methyl-4-(piperidin-2-on-1-yl)-benzoic acid
Prepared analogously to Example 2d from methyl 3-methyl-4-(piperidin-2-on-1-yl)-benzoate and 1-molar sodium hydroxide solution in methanol.

reactant | methyl 3-methyl-4-(piperidin-2-on-1-yl)-benzoate | CC=1C=C(C(=O)OC)C=CC1N1C(CCCC1)=O | C14H17NO3
reactant | sodium hydroxide | 1-molar | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-methyl-4-(piperidin-2-on-1-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1C(CCCC1)=O | C13H15NO3
